US07786108B2
Step 2. Preparation of methyl 2-amino-4-bromo-3-methylbenzoate
Add (trimethylsilyl)diazomethane (16.5 mL, 33 mmol, 2 M in hexane) to a solution of 2-amino-4-bromo-3-methyl-benzoic acid (3.8 g, 16.5 mmol) in ethyl acetate (50 mL) and ethanol (50 mL) at room temperature and stir the solution for 16 h. Remove the solvent under reduced pressure. Chromatograph the residue over silica gel, eluting with hexanes/ethyl acetate, to afford the title compound (3.54 g, 88%). MS (ES+): 245 (M+H).

reactant | (trimethylsilyl)diazomethane | 33 mmol, 2 M, 16.5 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 2-amino-4-bromo-3-methyl-benzoic acid | 16.5 mmol, 3.8 g | NC1=C(C(=O)O)C=CC(=C1C)Br | C8H8BrNO2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | methyl 2-amino-4-bromo-3-methylbenzoate | 3.54 g, 88% | NC1=C(C(=O)OC)C=CC(=C1C)Br | C9H10BrNO2
